US07893090B2
Description 60: (RS)-2-(5,6-Difluoro-1-methyl-1H-benzoimidazol-2-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester
To a stirred suspension of sodium hydride (0.46 g, 60% dispersion in mineral oil) in dimethylformamide (30 ml) at 0° C., under argon, was added (RS)-2-(5,6-difluoro-1H-benzoimidazol-2-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester, D59 (2 g) and the reaction mixture stirred for a further 30 min. before the addition of iodomethane (0.78 ml). The reaction mixture was then stirred at room temperature for 18 h, a further equivalent of iodomethane (0.35 ml) was added and stirring continued for 24 h. Further portions of sodium hydride (0.23 g, 60% dispersion in mineral oil) and iodomethane (0.35 ml) were added and the reaction stirred for an additional 24 h. After diluting with water, the aqueous layer was extracted with diethyl ether (3×). The combined organics were dried (MgSO4) and solvent removed in vacuo to afford the title compound (0.5 g).

reactant | sodium hydride | 0.46 g | [H-].[Na+]
reactant | (RS)-2-(5,6-difluoro-1H-benzoimidazol-2-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CC1=NC2=C(N1)C=C(C(=C2)F)F | C18H23F2N3O2
reactant | iodomethane | 0.78 ml | IC | CH3I
reactant | iodomethane | 0.35 ml | IC | CH3I
reactant | sodium hydride | 0.23 g | [H-].[Na+]
reactant | iodomethane | 0.35 ml | IC | CH3I
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (RS)-2-(5,6-Difluoro-1-methyl-1H-benzoimidazol-2-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.5 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC1=NC2=C(N1C)C=C(C(=C2)F)F | C19H25F2N3O2
